US05591752
2-(7-Chloroquinolin-2-yl)methoxy-11-(2-cyanoethoxy)-6,11-dihydrodibenz[b,e]oxepine
Under ice cooling and stirring, 0.27 ml of thionyl chloride was added 1.5 g of 2-(7-chloroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine obtained in Reference example 36 suspended in 30 ml of methylene chloride and the mixture was stirred at the same temperature for 40 minutes. After completion of the reaction, the reaction mixture was condensed under reduced pressure, the residue was dissolved in 12 ml of methylene chloride, 0.81 ml of ethylenecyanhydrin and 0.94 ml of triethylamine were added to the solution under ice cooling and stirring and the mixture was stirred at room temperature for 2.5 hours. The reaction mixture was washed with water and the organic layer was dried over anhydrous sodium sulfate. Solid obtained by removing the solvent was washed with a diethyl ether-hexane mixed solution to obtain 1.31 g of the title compound.

reactant | thionyl chloride | 0.27 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(7-chloroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine | 1.5 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1 | C24H18ClNO3
reactant | ethylenecyanhydrin | 0.81 ml | C(CO)C#N | C3H5NO
reactant | triethylamine | 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-(7-Chloroquinolin-2-yl)methoxy-11-(2-cyanoethoxy)-6,11-dihydrodibenz[b,e]oxepine | 1.31 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2OCCC#N)C=CC=C3)C=C1 | C27H21ClN2O3
